US07777047B2
N-(2-hydroxyethyl)-2-(2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)-N-methylacetamide
A mixture of (2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (250 mg), 1H-1,2,3-benzotriazol-1-ol (100 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (140 mg), 2-(methylamino)ethanol (60 mg) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-methanol (100:0-95:5, volume ratio) to give colorless crystals. The crystals were recrystallized from ethyl acetate-hexane to give the title compound (140 mg, yield 50%) as colorless crystals. melting point 94-96° C.

reactant | (2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 250 mg | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CC(=O)O | C22H24N4O6S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 100 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 140 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-(methylamino)ethanol | 60 mg | CNCCO | C3H9NO
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(2-hydroxyethyl)-2-(2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)-N-methylacetamide | 140 mg, yield 50% | OCCN(C(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)=O)C | C25H31N5O6S2
